US04111933
5.4 g (6.0 mmols) of lithium -cobalt-phthalocyanine in 30 ml of absolute acetone, 1 g (about 10 mmols) of phenol and 700 mg (2.0 mmols) of 2,2,2-trichloroethoxycarbonyl-L-valine tert.-butyl ester are stirred for 1 hour at 20° C. 10 ml of water saturated with CO2 are added to the deep green solution, CO2 and air are passed into the mixture for 5 minutes and the mixture is left to stand for 30 minutes. Cobalt phthalocyanine is filtered off and rinsed with water and acetone, the acetone is stripped off from the filtrate and the residual aqueous phase is extracted with CH2Cl2. Stripping of the combined CH2Cl2 extracts (after drying over Na2SO4) gives L-valine tert.-butyl ester which is contaminated with traces of PcC and contains diacetone alcohol. Purification via the hydrocitrate gives 260 mg (75% yield).

reactant | phenol | about 10 mmols, 1 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2,2,2-trichloroethoxycarbonyl-L-valine tert.-butyl ester | 2.0 mmols, 700 mg | C(C)(C)(C)OC([C@@H](NC(=O)OCC(Cl)(Cl)Cl)C(C)C)=O | C12H20Cl3NO4
reactant | water | 10 ml | O | H2O
reactant | CO2 | C(=O)=O | CO2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
catalyst | lithium -cobalt phthalocyanine | 6.0 mmols, 5.4 g | [Co].[Li].C=1C=CC=2C(C1)=C3NC2N=C4C=5C=CC=CC5C(=N4)N=C6C=7C=CC=CC7C(N6)=NC=8C=9C=CC=CC9C(=N3)N8
product | L-valine tert.-butyl ester | 75% yield | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
